US05116841
5-formylaminomethyl-3-methylisoxazole
A stirred solution of nitroethane (17.9 ml, 0.25 mol) in N,N-dimethylacetamide (DMA) (250 ml) was added dropwise at 25°-30° C. to a solution of sodium methoxide, prepared by dissolving sodium (5.75 g) in dry methanol. The reaction mixture was cooled to 5° C. and acetyl chloride (18.5 ml, 0.26 mol) was added at 5°-10° C. Then was added a solution of 3-formylaminopropyn (17 g, 0.20 mol) in DMA (15 ml), and stirring was continued at room temperature overnight. The solvent was removed in vacuo and the residue was extracted with ether (300 ml). The ether was evaporated leaving an oily residue from which the title compound was isolated by distillation (120°-140° C./0.3 mmHg); 1H-NMR (CDCl3) 2.21 (s,3H), 4.35 (d,2H), 5.97 (s,1H), 7-8 (br, 1H), 8.13 (s,1H). (Compound 15).

reactant | nitroethane | 0.25 mol, 17.9 ml | [N+](=O)([O-])CC | C2H5NO2
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 5.75 g | [Na] | Na
reactant | acetyl chloride | 0.26 mol, 18.5 ml | C(C)(=O)Cl | C2H3ClO
reactant | 3-formylaminopropyn | 0.20 mol, 17 g | C(=O)NCC#C | C4H5NO
solvent | N,N-dimethylacetamide | 250 ml | CN(C(C)=O)C | C4H9NO
solvent | methanol | CO | CH4O
solvent | DMA | 15 ml | CN(C(C)=O)C | C4H9NO
product | 5-formylaminomethyl-3-methylisoxazole | C(=O)NCC1=CC(=NO1)C | C6H8N2O2
